US05607950
(2S)-(2-Chloroethyl)-1-[2-(indan-5-yl)ethyl]pyrrolidine
A solution of (2S)-(2-hydroxyethyl)-1-[2-(indan-5-yl)ethyl]pyrrolidine (0.99 g, 3.8 mmol--see Preparation 17) and thionyl chloride (1 ml) in chloroform (15 ml) was heated under reflux for 3 hours and evaporated. The residue was partitioned between ethyl acetate and saturated aqueous sodium carbonate solution and the organic layer was dried over magnesium sulphate and evaporated to give the title compound (956 mg, 91%) as a brown oil which was not characterised before use (Example 24).

reactant | (2S)-(2-hydroxyethyl)-1-[2-(indan-5-yl)ethyl]pyrrolidine | 3.8 mmol, 0.99 g | OCC[C@H]1N(CCC1)CCC=1C=C2CCCC2=CC1 | C17H25NO
reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | (2S)-(2-Chloroethyl)-1-[2-(indan-5-yl)ethyl]pyrrolidine | 956 mg, 91% | ClCC[C@H]1N(CCC1)CCC=1C=C2CCCC2=CC1 | C17H24ClN
